US07728023B2
2-(4-bromo-1H-indol-3-yl)propanoic acid
The compound prepared in Example 51, namely, 2-(4-bromo-1H-indol-3-yl)propanenitrile (184 mg) was dissolved in a mixture of ethanol (1 mL) and ethylene glycol (1 mL) and an aqueous 20% potassium hydroxide solution (0.5 mL) was added, and then the mixture was stirred overnight at 120° C. The reaction mixture was ice-cooled and then neutralized with 2M hydrochloric acid. The precipitated crystal was collected by filtration to obtain the titled compound having the following physical properties (155 mg).

reactant | 2-(4-bromo-1H-indol-3-yl)propanenitrile | 184 mg | BrC1=C2C(=CNC2=CC=C1)C(C#N)C | C11H9BrN2
reactant | potassium hydroxide | 0.5 mL | [OH-].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethylene glycol | 1 mL | C(CO)O | C2H6O2
product | 2-(4-bromo-1H-indol-3-yl)propanoic acid | BrC1=C2C(=CNC2=CC=C1)C(C(=O)O)C | C11H10BrNO2
